US07517994B2
Step A: Preparation of 4-hydroxy-1,5-dimethyl-6-oxo-1,6-dihydropyridazine-3-carboxylic acid:
To a solution of LiHMDS (331 mL, 331 mmol, 1 M solution in THF) in THF (430 mL) at −78° C. was added a solution of diethyl 2-(2-methyl-2-propionylhydrazono)malonate (21.40 g, 82.86 mmol) prepared by the procedure described in Example 168 (step B) in THF (10 mL). The resulting mixture was slowly warmed to −40° C. over 1 hour and stirred for 1.5 hours at −40° C. To the −40° C. reaction mixture was added water (500 mL). The reaction mixture was warmed to room temperature and stirred for 3 hours. The reaction mixture was concentrated under reduced pressure to remove the THF. The resulting aqueous mixture was quenched with 6 N aqueous HCl at 0° C., and acidified to pH 1 to 2. The resulting mixture was stirred for 16 hours at room temperature. The precipitates were filtered off and triturated with CH2Cl2 to afford 7.21 g (47%) of the desired product. The filtrate was extracted with EtOAc (3×). The combined organic layers were washed with water, dried over MgSO4, filtered, and concentrated under reduced pressure to give the crude material that was triturated with CH2Cl2 to afford 3.56 g (23%) of additional desired product. The aqueous layer was extracted again with EtOAc (3×). The combined organic layers were washed with water, dried over MgSO4, filtered, and concentrated under reduced pressure to give the crude material that was triturated with CH2Cl2 to afford 1.32 g (9%) of additional desired product. A total of 12.09 g (79%) of the desired product was obtained.

reactant | LiHMDS | 331 mmol, 1 M, 331 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | diethyl 2-(2-methyl-2-propionylhydrazono)malonate | 82.86 mmol, 21.40 g | CN(N=C(C(=O)OCC)C(=O)OCC)C(CC)=O | C11H18N2O5
reactant | water | 500 mL | O | H2O
solvent | THF | 430 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-hydroxy-1,5-dimethyl-6-oxo-1,6-dihydropyridazine-3-carboxylic acid | 7.21 g, 47% | OC=1C(=NN(C(C1C)=O)C)C(=O)O | C7H8N2O4
